US04994512
To a solution of vanillin (30.4 g, 0.30 mol) dissolved in water (150 mL) containing sodium hydroxide (8.5 g) is added 1,4-dibromo-2-butene (21.4 g, 0.10 mol) and the reaction mixture is stirred and heated at reflux for 6 hours and then allowed to cool. The product is collected by filtration, washed with water and dried in air and then recrystallized from 200 mL of toluene and again collected by filtration and dried in air. The yield of 4,4'-[(2-butene-1,4-diyl)bis(oxy)bis(3-methoxybenzaldehyde)] obtained is 18.8 g (52.8% of theory). The identity of the product is supported by mass spectroscopy analysis.

reactant | vanillin | 0.30 mol, 30.4 g | O=CC1=CC(OC)=C(O)C=C1 | C8H8O3
reactant | sodium hydroxide | 8.5 g | [OH-].[Na+]
reactant | 1,4-dibromo-2-butene | 0.10 mol, 21.4 g | BrCC=CCBr | C4H6Br2
solvent | water | 150 mL | O | H2O
product | 4,4'-[(2-butene-1,4-diyl)bis(oxy)bis(3-methoxybenzaldehyde)] | C(C=CCOC1=C(C=C(C=O)C=C1)OC)OC1=C(C=C(C=O)C=C1)OC | C20H20O6
